US07232821B2
5-{2-[5-trifluoromethyl-2-benzyloxyphenyl]cyclopent-1-enyl}-3-diethylaminobenzoic acid ethyl ester
5-{2-[5-trifluoromethyl-2-benzyloxyphenyl]cyclopent-1-enyl}-3-aminobenzoic acid ethyl ester (90 mg, 0.18 mmol), potassium carbonate (51 mg, 0.37 mmol), ethyliodide (0.037 mL, 0.47 mmol), in 3 mL of DMF were stirred at 40° C. for 16 hrs, then another 0.037 mL of ethyl iodide were added and the reaction mixture was stirred for another 4 hrs. The mixture was then poured into water and extracted with ethyl acetate (3×10 mL). The combined organic layers were dried (MgSO4), and concentrated. Purification was carried out on a SPE using a gradient of iso-hexane/ethyl acetate.

reactant | 5-{2-[5-trifluoromethyl-2-benzyloxyphenyl]cyclopent-1-enyl}-3-aminobenzoic acid ethyl ester | 0.18 mmol, 90 mg | C(C)OC(C1=CC(=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)N)=O | C28H26F3NO3
reactant | potassium carbonate | 0.37 mmol, 51 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyliodide | 0.47 mmol, 0.037 mL | C(C)I | C2H5I
reactant | ethyl iodide | 0.037 mL | C(C)I | C2H5I
reactant | water | O | H2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-{2-[5-trifluoromethyl-2-benzyloxyphenyl]cyclopent-1-enyl}-3-diethylaminobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)N(CC)CC)=O | C32H34F3NO3
